US06878714B2
A mixture of 1-acetyl-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile (0.872 g), 10% Pd/C (0.882 g), 20 mL of Et3N, and 80 mL of EtOH was stirred at RT under balloon pressure of H2 for overnight. Solid was removed by filtration through a pad of Celite® and the filtrate was concentrated to yield a cream color residue, which was purified by chromatography through silica gel (70 g, 2 to 5% MeOH/CHCl3 with 1% NH4OH) to afford 1-(4-aminomethyl-pyrrolo[2,3-b]pyridin-1-yl)-ethanone as a white solid.

reactant | 1-acetyl-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile | 0.872 g | C(C)(=O)N1C=CC2=C1N=CC=C2C#N | C10H7N3O
reactant | Et3N | 20 mL | CCN(CC)CC | C6H15N
catalyst | Pd/C | 0.882 g | [Pd] | Pd
solvent | EtOH | 80 mL | CCO | C2H6O
product | 1-(4-aminomethyl-pyrrolo[2,3-b]pyridin-1-yl)-ethanone | NCC1=C2C(=NC=C1)N(C=C2)C(C)=O | C10H11N3O
